US04239694
A mixture of p-diacetylbenzene (20.25 g, 0.125 mole), ethyl cyanoacetate (28.3 g, 0.25 mole), ammonium acetate (3.85 g) and acetic acid (10 g) was combined in a 500 ml glass round-bottom flask with toluene (150 ml) and refluxed for 12 hours. A Dean-Stark trap was employed to trap water formed during the reaction. Refluxing was discontinued and the solvent evaporated. The residue containing crude product was distilled under reduced pressure. One fraction, boiling point range 177° C.-195° C. (0.6 mm) amounting to 20.6 g was identified as predominately the 1:1 condensation product. A second fraction, boiling point ~200° C. yielded 18.2 g of 1,4-bis(2-carbethoxy-2-cyano-1-methylethenyl)benzene.

reactant | p-diacetylbenzene | 0.125 mole, 20.25 g | C(C)(=O)C1=CC=C(C=C1)C(C)=O | C10H10O2
reactant | ethyl cyanoacetate | 0.25 mole, 28.3 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | ammonium acetate | 3.85 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 10 g | C(C)(=O)O | C2H4O2
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 1,4-bis(2-carbethoxy-2-cyano-1-methylethenyl)benzene | 18.2 g | C(=O)(OCC)C(=C(C)C1=CC=C(C=C1)C(=C(C(=O)OCC)C#N)C)C#N | C20H20N2O4
